simulator lang=spectre
global 0

ahdl_include "../submission/latched_bus_dac8.va"

Vclk (vclk 0) vsource type=pulse val0=0 val1=0.9 delay=0.25n period=3n width=0.8n rise=20p fall=20p
Vb7 (b7 0) vsource type=pwl wave=[0n 0 4.3n 0 4.32n 0.9 7.5n 0.9 7.52n 0 10.2n 0 10.22n 0.9]
Vb6 (b6 0) vsource type=pwl wave=[0n 0 1n 0 1.02n 0.9 7.5n 0.9 7.52n 0]
Vb5 (b5 0) vsource type=pwl wave=[0n 0 7.5n 0 7.52n 0.9]
Vb4 (b4 0) vsource type=pwl wave=[0n 0 1n 0 1.02n 0.9 4.3n 0.9 4.32n 0 7.5n 0 7.52n 0.9 10.2n 0.9 10.22n 0]
Vb3 (b3 0) vsource type=pwl wave=[0n 0 1n 0 1.02n 0.9 4.3n 0.9 4.32n 0 7.5n 0 7.52n 0.9 10.2n 0.9 10.22n 0]
Vb2 (b2 0) vsource type=pwl wave=[0n 0 7.5n 0 7.52n 0.9]
Vb1 (b1 0) vsource type=pwl wave=[0n 0 1n 0 1.02n 0.9 7.5n 0.9 7.52n 0 10.2n 0 10.22n 0.9]
Vb0 (b0 0) vsource type=pwl wave=[0n 0 4.3n 0 4.32n 0.9 7.5n 0.9 7.52n 0 10.2n 0 10.22n 0.9]
XDUT (vclk b7 b6 b5 b4 b3 b2 b1 b0 vout) latched_bus_dac8

tran tran stop=15n maxstep=20p
save vclk b7 b6 b5 b4 b3 b2 b1 b0 vout
